US06107300
Part A: 4-Aminoheptane (2.5 g) was added to a solution of 4,6-ditosyloxy-2-methyl-5-nitropyrimidine (10.5 g) and N,N-diisopropylethylamine (3.8 mL) in dichloromethane (219 mL). The reaction was stirred under nitrogen for 5 h at room temperature and then extracted with water. The organic layer was dried over anhydrous magnesium sulfate and concentrated to yield N-(1-propyl)butyl-2-methyl-5-nitro-4-tosyloxypyrimidin-6-amine as a pale yellow solid (9.1 g)

reactant | 4-Aminoheptane | 2.5 g | NC(CCC)CCC | C7H17N
reactant | 4,6-ditosyloxy-2-methyl-5-nitropyrimidine | 10.5 g | S(=O)(=O)(C1=CC=C(C)C=C1)OC1=NC(=NC(=C1[N+](=O)[O-])OS(=O)(=O)C1=CC=C(C)C=C1)C | C19H17N3O8S2
reactant | N,N-diisopropylethylamine | 3.8 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 219 mL | ClCCl | CH2Cl2
product | N-(1-propyl)butyl-2-methyl-5-nitro-4-tosyloxypyrimidin-6-amine | 9.1 g | C(CC)N(C1=C(C(=NC(=N1)C)OS(=O)(=O)C1=CC=C(C)C=C1)[N+](=O)[O-])CCCC | C19H26N4O5S
